US07723329B2
A solution of toluene-4-sulfonic acid 2-[3-(naphthalene-1-sulfonyl)-1H-indazol-5-yloxy]-ethyl ester (1.18 g, 2.26 mmol) and ethylmethylamine (2.0 mL, 23 mmol) in THF (20 mL) was stirred for 16 hours at 70° C. in a sealed tube. More ethylmethylamine (2.0 mL, 23 mmol) was added, and the reaction mixture was heated to 80° C. for 20 hours in a sealed tube. After cooling to ambient temperature, the reaction mixture was concentrated and partitioned in ethyl acetate and aqueous sodium bicarbonate. The organic phase was washed with brine, dried with anhydrous magnesium sulfate, filtered and concentrated. The residue was purified by flash chromatography using 0.75% ammonium hydroxide/7.5% methanol in chloroform. Drying in vacuo at 69° C. for 20 minutes yielded ethyl-methyl-{2-[3-(naphthalene-1-sulfonyl)-1H-indazol-5-yloxy]-ethyl}-amine as a buff foam (0.409 g, 44.2%). Methanol, chloroform and ethereal hydrochloride were added. The resulting solution was concentrated and dried for 16 hours at 84° C. in vacuo. The hydrochloride was obtained as a buff semi-solid (0.424 g). Mass Spectrum (+EI, [M+H]+) m/z 410. 1HNMR (500 MHz, DMSO-d6): δ14.21 (s, 1H), 10.00-10.01 (s, 1H), 8.74-8.77 (m, 1H), 8.52 (dd, 1H, J=7.44 Hz and 1.22 Hz), 8.27 (d, 1H, J=8.29 Hz), 8.03-8.05 (m, 1H), 7.73 (dd, 1H, J=8.06 Hz and 7.57 Hz), 7.56-7.65 (m, 3H), 7.37 (d, 1H, J=2.20 Hz), 7.15-7.18 (m, 1H), 4.40 (t, 2H, J=5.00 Hz), 3.53-3.59 (m, 1H), 3.39-3.49 (m, 1H), 3.21-3.25 (m, 1H), 3.10-3.20 (m, 1H), 2.81 (d, 3H, J=4.88 Hz), 1.21-1.25 ppm (m, 3H). Elemental Analysis for C22H23N3O3S.1.00 mol HCl.0.30 mol H2O:

reactant | toluene-4-sulfonic acid 2-[3-(naphthalene-1-sulfonyl)-1H-indazol-5-yloxy]-ethyl ester | 2.26 mmol, 1.18 g | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)C1=NNC2=CC=C(C=C12)OCCOS(=O)(=O)C1=CC=C(C=C1)C | C26H22N2O6S2
reactant | ethylmethylamine | 23 mmol, 2.0 mL | C(C)NC | C3H9N
reactant | ethylmethylamine | 23 mmol, 2.0 mL | C(C)NC | C3H9N
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | ethyl-methyl-{2-[3-(naphthalene-1-sulfonyl)-1H-indazol-5-yloxy]-ethyl}-amine | C(C)N(CCOC=1C=C2C(=NNC2=CC1)S(=O)(=O)C1=CC=CC2=CC=CC=C12)C | C22H23N3O3S
